US09290517B2
(3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-[4-(1-hydroxy-1-methyl-propyl)phenyl]phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
A stirred off-white suspension of 1-[4-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]phenyl]ethanone (55.6 mg, 0.113 mmol) in THF (2.3 ml) was degassed (3×) and placed under nitrogen before being cooled to 0° C. in an ice bath. Ethylmagnesium bromide 3.0 M in diethyl ether (0.38 ml, 1.140 mmol) was added to the reaction mixture dropwise, to give a green suspension. After a few minutes, the reaction mixture was removed from the ice bath and allowed to warm to room temperature. After 2 hours, the reaction mixture was pipetted into saturated aqueous NaHCO3 (30 ml). The resulting biphasic suspension was partitioned between EtOAc (30 ml) and water (10 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×20 ml), dried over Na2SO4, filtered, and evaporated under reduced pressure to give a green residue. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile+0.05% TFA flush. The product fractions were combined and evaporated under reduced pressure to give the racemic product as a colorless residue, which was separated by preparative HPLC Chiralpak AD™, eluting with 30% isopropanol/heptane at 9 mL/minute. The fractions from the faster eluting peak were collected, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give isomer A of the title compound as a white solid. LC-MS: calculated for C28H28ClN3O5 521.17 observed m/e: 522.23 (M+H)+ (Rt 1.16/2 min); 1H NMR δ (ppm) (CD3OD): 7.82 (s, 1H), 7.73 (s, 4H), 7.66 (d, J=8.5 Hz, 2H), 7.54 (d, J=8.5 hz, 2H), 5.54 (qt, Hz=5.4 Hz, 1H), 4.96 (t, J=5.2 Hz, 1H), 4.47 (t, J=5.0 Hz, 1H), 4.26-4.30 (m, 1H), 4.17 (dd, J=5.8 Hz, J=10.2 Hz, 1H), 4.10 (dd, J=4.9 Hz, 10.2 Hz, 1H), 3.90 (dd, J=6.9 Hz, J=8.1 Hz, 1H), 3.60 (t, J=8.6 Hz, 1H), 1.83-1.88 (m, 2H), 1.55 (s, 3H), 0.82 (t, J=7.4 Hz, 3H).

reactant | 1-[4-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]phenyl]ethanone | 0.113 mmol, 55.6 mg | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)N2 | C26H22ClN3O5
reactant | Ethylmagnesium bromide | 3.0 M | C(C)[Mg]Br
reactant | diethyl ether | 1.140 mmol, 0.38 ml | C(C)OCC | C4H10O
reactant | THF | 2.3 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-[4-(1-hydroxy-1-methyl-propyl)phenyl]phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)(C)O)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C28H28ClN3O5
